* A:\Bureau\Projet Robot Infirmier\spice alimentation\buck V1 fonctionnel\buckV1.asc
V1 Vcc 0 36
M1 Vcc cmd N001 N001 BSP89
D1 0 N002 1N4148
L1 N002 sortie 100m
C1 sortie 0 1µ
R1 sortie 0 100k
V2 comp 0 10
XU2 comp sortie Vcc 0 cmd OP1177
R2 N002 N001 10k
.model D D
.lib A:\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib A:\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 50m
.lib ADI1.lib
.backanno
.end
