* C:\Users\thoma\Documents\GitHub\Projet5ArobotInfirmier\spice alimentation\buck V1 fonctionnel\buckV1.asc
V1 Vcc 0 36
M1 Vcc cmd N001 N001 BSP89
D1 0 N001 1N4148
L1 N001 sortie 10m
C1 sortie 0 100m
V2 comp 0 10
XU2 comp sortie Vcc 0 cmd OP1177
R1 sortie 0 100
.model D D
.lib C:\Users\thoma\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\thoma\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 100m
.lib ADI1.lib
.backanno
.end
